US08003084B2
27.6 g of tosylmethyl isocyanide and 17 g of 2-pentylcyclopentanone were dissolved in 400 ml of 1,2-dimethoxyethane and 10 ml of ethanol. The solution was cooled to 0° C. with an ice-bath, and 29 g of tBuOK were added in 1 hour maintaining the temperature between 0 and 10° C. After completion of the reaction, the reaction mixture was poured into water and extracted with cyclohexane. The organic layer was washed 3 times with water until neutral pH. Purification by bulb-to-bulb distillation (130° C./0.06 mbar) gave 10.7 g of the pure 2-pentylcyclopentanecarbonitrile.

reactant | tosylmethyl isocyanide | 27.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | 2-pentylcyclopentanone | 17 g | C(CCCC)C1C(CCC1)=O | C10H18O
reactant | tBuOK | 29 g | C(C)(C)(C)O[K]
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-pentylcyclopentanecarbonitrile | 10.7 g | C(CCCC)C1C(CCC1)C#N | C11H19N
